US08859574B2
To a mixture of 3-azetidinone hydrochloride (471 mg, 3.28 mmol) and K2CO3 (1.50 g, 11 mmol) in CHCl3/H2O (5/5 mL) was added methanesulfonic anhydride (1.14 g, 6.57 mmol) in one portion at 0° C. After stirring for 2 h, the reaction was diluted with saturated aqueous NaHCO3 (5 mL) and extracted with DCM (3×25 mL). The combined DCM layers were washed with brine (5 mL), dried over Na2SO4 and evaporated to afford 1-(Methylsulfonyl)azetidin-3-one as an off white solid, which was used without further purification; 1H NMR (400 MHz, CDCl3) δ 4.82 (s, 4H), 3.05 (s, 3H).

reactant | 3-azetidinone hydrochloride | 3.28 mmol, 471 mg | Cl.N1CC(C1)=O
reactant | K2CO3 | 11 mmol, 1.50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulfonic anhydride | 6.57 mmol, 1.14 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | CHCl3 H2O | 5 mL | C(Cl)(Cl)Cl.O
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
product | 1-(Methylsulfonyl)azetidin-3-one | CS(=O)(=O)N1CC(C1)=O | C4H7NO3S
